US07642276B2
(4-Bromo-2-nitrophenyl)methyl 4-fluorophenyl sulfide
To a solution of 4-bromo-1-(bromomethyl)-2-nitrobenzene (0.60 g) in tetrahydrofuran (10 ml) was added 4-fluorothiophenol (1.2 ml) and diisopropylethylamine (0.45 ml). After stirring for 2 h the mixture was concentrated under vacuum and purified by column chromatography on silica, eluting with petroleum ether (40-60°):dichloromethane (9:1 to 8:1) to give the title compound (0.52 g).

reactant | 4-bromo-1-(bromomethyl)-2-nitrobenzene | 0.60 g | BrC1=CC(=C(C=C1)CBr)[N+](=O)[O-] | C7H5Br2NO2
reactant | 4-fluorothiophenol | 1.2 ml | FC1=CC=C(C=C1)S | C6H5FS
reactant | diisopropylethylamine | 0.45 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | (4-Bromo-2-nitrophenyl)methyl 4-fluorophenyl sulfide | 0.52 g | FC1=CC=C(C=C1)SCC1=C(C=C(C=C1)Br)[N+](=O)[O-] | C13H9BrFNO2S
